US05157124
1-[4-(Dimethylamino)-2-butynyl]-2-imidazolidinone
This product was prepared according to Example 1, Part B, by substituting 1-(2-propynyl)-2-imidazolidinone for 1-methyl-3-(2-propynyl)-2-imidazolidinone and dimethylamine for pyrrolidine; m.p. 83°-87° C.

reactant | 1-methyl-3-(2-propynyl)-2-imidazolidinone | CN1C(N(CC1)CC#C)=O | C7H10N2O
reactant | dimethylamine | CNC | C2H7N
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 1-[4-(Dimethylamino)-2-butynyl]-2-imidazolidinone | CN(CC#CCN1C(NCC1)=O)C | C9H15N3O
